US09371319B2
Preparation 105: 1-(3-methoxy-4-nitrobenzyl)pyrrolidine
Pyrrolidine (0.2 g, 2.8 mmol) and triethylamine (0.28 g, 2.8 mmol) were added to a solution of 4-(bromomethyl)-2-methoxy-1-nitrobenzene (Preparation 104, 0.22 g, 0.894 mmol) in THF (5 mL). The reaction mixture was stirred for 1 hour at room temperature before being concentrated under reduced pressure and purified by silica gel column chromatography eluting with 10% methanol in ethyl acetate to afford the title compound as a pale yellow powder (0.18 g, 94%). 1H-NMR (500 MHz, CDCl3): δ 1.8 (t, J=6.7 Hz, 4H), 2.51 (t, J=6.7 Hz, 4H), 3.65 (s, 2H), 3.96 (s, 3H), 6.96 (dd, J=9.7 Hz, 1.5 Hz 1H), 7.12 (s, 1H), 7.8 (d, J=8.3 Hz, 1H)

reactant | Pyrrolidine | 2.8 mmol, 0.2 g | N1CCCC1 | C4H9N
reactant | triethylamine | 2.8 mmol, 0.28 g | C(C)N(CC)CC | C6H15N
reactant | 4-(bromomethyl)-2-methoxy-1-nitrobenzene | 0.894 mmol, 0.22 g | BrCC1=CC(=C(C=C1)[N+](=O)[O-])OC | C8H8BrNO3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(3-methoxy-4-nitrobenzyl)pyrrolidine | 0.18 g, 94% | COC=1C=C(CN2CCCC2)C=CC1[N+](=O)[O-] | C12H16N2O3
